US06331640B1
A solution of 1,4-dioxa-8-thiaspiro[4.5]decane-6-carboxylic acid, methyl ester (prepared according to Baldwin, J. J. et al. U.S. Pat. No. 4,803,286; 30.00 g, 0.137 mol) in ethanol (500 mL) and a solution of potassium hydroxide (16.80 g, 0.299 mol) in ethanol (300 mL) were combined and heated under reflux for 7 h. The solution was concentrated in vacuo and water was added. The mixture was extracted with ether, and the ether layer was discarded. The aqueous layer was made acidic and extracted with ether. The ether layers were washed, dried, and evaporated, and the residue was recrystallized from benzene/hexane to give 1,4-dioxa-8-thiaspiro[4.5]decane-6-carboxylic acid (17.8 g, 63%) as white crystals, mp 99-101° C.

reactant | 1,4-dioxa-8-thiaspiro[4.5]decane-6-carboxylic acid, methyl ester | O1CCOC12C(CSCC2)C(=O)OC | C9H14O4S
reactant | potassium hydroxide | 0.299 mol, 16.80 g | [OH-].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 1,4-dioxa-8-thiaspiro[4.5]decane-6-carboxylic acid | 17.8 g, 63% | O1CCOC12C(CSCC2)C(=O)O | C8H12O4S
